US07745449B2
Step (c): 4-methyl-3-(7-oxo-6,7-dihydrothieno[2,3-d]pyridazin-2-yl)benzoic acid
A solution of 3-(5-(tert-butylcarbamoyl)-4-formylthiophen-2-yl)-4-methylbenzoic acid (2.30 g, 6.7 mmol) in acetic acid (20 ml) was treated with hydrazine (0.73 ml, 20 mmol) and heated to 110° C. for 8 hrs. After cooling to RT the volatiles were removed in vacuo. The residue was recrystallized from MeOH. Yield: 1.01 g. MS (ESI, pos. ion) m/z: 287 (M+1).

reactant | 3-(5-(tert-butylcarbamoyl)-4-formylthiophen-2-yl)-4-methylbenzoic acid | 6.7 mmol, 2.30 g | C(C)(C)(C)NC(=O)C1=C(C=C(S1)C=1C=C(C(=O)O)C=CC1C)C=O | C18H19NO4S
reactant | hydrazine | 20 mmol, 0.73 ml | NN | H4N2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-methyl-3-(7-oxo-6,7-dihydrothieno[2,3-d]pyridazin-2-yl)benzoic acid | CC1=C(C=C(C(=O)O)C=C1)C1=CC2=C(C(NN=C2)=O)S1 | C14H10N2O3S
